US06727264B1
N-(6-{1-[4-(3,4-DIFLUOROPHENOXY)BENZYL]-4-PIPERIDINYL}-2-PYRIDINYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure AA and Scheme AJ using 4-(3,4-difluorophenoxy)benzaldehyde and 2-methyl-N-[6-(4-piperidinyl)-2-pyridinyl]propanamide: ESMS m/e: 466.0 (M+H)+.

reactant | 4-(3,4-difluorophenoxy)benzaldehyde | FC=1C=C(OC2=CC=C(C=O)C=C2)C=CC1F | C13H8F2O2
reactant | 2-methyl-N-[6-(4-piperidinyl)-2-pyridinyl]propanamide | CC(C(=O)NC1=NC(=CC=C1)C1CCNCC1)C | C14H21N3O
product | N-(6-{1-[4-(3,4-DIFLUOROPHENOXY)BENZYL]-4-PIPERIDINYL}-2-PYRIDINYL)-2-METHYLPROPANAMIDE | FC=1C=C(OC2=CC=C(CN3CCC(CC3)C3=CC=CC(=N3)NC(C(C)C)=O)C=C2)C=CC1F | C27H29F2N3O2
